US08877780B2
A mixture of 2-[(3S)-3-methyl-2,6-dioxo-piperidin-3-yl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carbonitrile (4.70 g, 15.8 mmol), 4N HCl (21 mL), and 10% Pd—C (1.88 g) in CH3OH (200 mL) was hydrogenated under 50 psi of H2 for 16 hours. Water (24 mL) was added, and the reaction mixture was filtered through Celite. The filter was washed with additional methanol (50 mL). The filtrate was concentrated and dried to give 3.5 g of 5-aminomethyl-2-[(3S)-3-methyl-2,6-dioxo-piperidin-3-yl]-isoindole-1,3-dione hydrochloride, in 66% yield; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 1.00 (97.70%); 1H NMR (DMSO-d6) δ 1.91 (s, 3H), 2.03-2.10 (m, 1H), 2.49-2.61 (m, 2H), 2.66-2.75 (m, 1H), 4.23 (s, 2H), 7.89-8.03 (m, 3H), 8.68 (br, 3H), 11.04 (s, 1H); 13C NMR (DMSO-d6) δ 20.9, 28.6, 29.0, 41.6, 58.9, 123.2, 123.5, 130.8, 131.4, 135.3, 141.2, 167.5, 167.6, 172.1, 172.2.

reactant | 2-[(3S)-3-methyl-2,6-dioxo-piperidin-3-yl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carbonitrile | 15.8 mmol, 4.70 g | C[C@]1(C(NC(CC1)=O)=O)N1C(C2=CC=C(C=C2C1=O)C#N)=O | C15H11N3O4
reactant | HCl | 4N, 21 mL | Cl | ClH
reactant | Water | 24 mL | O | H2O
solvent | CH3OH | 200 mL | CO | CH4O
catalyst | Pd—C | 1.88 g | [Pd] | Pd
product | 5-aminomethyl-2-[(3S)-3-methyl-2,6-dioxo-piperidin-3-yl]-isoindole-1,3-dione hydrochloride | 3.5 g, 66% yield | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)[C@@]1(C(NC(CC1)=O)=O)C)=O | InChI=1S/C15H15N3O4.ClH/c1-15(5-4-11(19)17-14(15)22)18-12(20)9-3-2-8(7-16)6-10(9)13(18)21;/h2-3,6H,4-5,7,16H2,1H3,(H,17,19,22);1H/t15-;/m0./s1
